US07393858B2
(2R,3R,4R)-α,α-Di-(2-propenyl)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]-ethoxy}tetrahydro-3-phenyl-2H-pyran-4-methanol
Allylmagnesium bromide (1.0M in hexanes, 8.8 mL, 8.8 mmol) was added slowly to a stirred, cooled (0° C.) solution of methyl(2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxylate (Description 37; 1.4 g, 2.9 mmol) in tetrahydrofuran (10 mL). The mixture was warmed to room temperature and stirred for 30 minutes. Saturated aqueous ammonium chloride (50 mL) was added and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced-pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane (80:20), to give the title compound as a colorless oil (1.48 g, 95%).

reactant | Allylmagnesium bromide | 8.8 mmol, 1.0M, 8.8 mL | C(C=C)[Mg]Br
reactant | methyl(2R,3R,4R)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}tetrahydro-3-phenyl-2H-pyran-4-carboxylate | 2.9 mmol, 1.4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1OCC[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)(F)F | C23H22F6O4
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2R,3R,4R)-α,α-Di-(2-propenyl)-2-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]-ethoxy}tetrahydro-3-phenyl-2H-pyran-4-methanol | 1.48 g, 95% | C(C=C)C(O)([C@H]1[C@@H]([C@H](OCC1)O[C@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1)CC=C | C28H30F6O3
